US08580832B2
4-[2-Fluoro-4-(2-imino-4-oxo-thiazolidin-5-ylidenemethyl)-phenoxy]-naphthalene-1-carbonitrile was prepared using 2-amino-thiazol-4-one and 4-(2-Fluoro-4-formyl-phenoxy)-naphthalene-1-carbonitrile following General Procedure C. 1H NMR (400 MHz, DMSO-d6) δ 9.54 (br, 1H), 9.25 (br, 1H), 8.42 (d, J=8.21 Hz, 1H), 8.15 (d, J=8.21 Hz, 1H), 8.08 (d, J=7.82 Hz, 1H), 7.91 (m, 1H), 7.81 (m, 1H), 7.7 (dd, J=12.13 and 2.34 Hz, 1H), 7.64 (s, 1H), 7.49-7.57 (2H), 6.93 (d, J=7.83 Hz, 1H). LC/MS (m/z) [M+1]+390.2 (calculated for C21H13FN3O2S 390.1).

reactant | 2-amino-thiazol-4-one | NC=1SCC(N1)=O | C3H4N2OS
reactant | 4-(2-Fluoro-4-formyl-phenoxy)-naphthalene-1-carbonitrile | FC1=C(OC2=CC=C(C3=CC=CC=C23)C#N)C=CC(=C1)C=O | C18H10FNO2
product | 4-[2-Fluoro-4-(2-imino-4-oxo-thiazolidin-5-ylidenemethyl)-phenoxy]-naphthalene-1-carbonitrile | FC1=C(OC2=CC=C(C3=CC=CC=C23)C#N)C=CC(=C1)C=C1C(NC(S1)=N)=O | C21H12FN3O2S
